US05221676
3[1-(3-Carboxy-1-cyclopropyl-6-fluoro-1,4 dihydro-4-oxo-7-quinolyl)-3-pyrrolidinyl]-1-methylpyridinium iodide
Iodomethane (1.62 g, 11.4 mmol) was added dropwise to a stirred suspension of 1-cyclopropyl 6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid (0.30 g, 0.8 mmol) in acetonitrile (30 mL). The resulting mixture was heated at reflux for 2 hours. The suspension was then filtered, the solids were washed with acetonitrile and ether, and dried in vacuo at 40° C. to give the title compound (0.38 g, 88%) as a light yellow solid, mp 278°-280° C.

reactant | Iodomethane | 11.4 mmol, 1.62 g | IC | CH3I
reactant | 1-cyclopropyl 6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid | 0.8 mmol, 0.30 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)C=1C=NC=CC1)F)=O)C(=O)O | C22H20FN3O3
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 3[1-(3-Carboxy-1-cyclopropyl-6-fluoro-1,4 dihydro-4-oxo-7-quinolyl)-3-pyrrolidinyl]-1-methylpyridinium iodide | 0.38 g, 88% | [I-].C(=O)(O)C1=CN(C2=CC(=C(C=C2C1=O)F)N1CC(CC1)C=1C=[N+](C=CC1)C)C1CC1 | InChI=1S/C23H22FN3O3.HI/c1-25-7-2-3-14(11-25)15-6-8-26(12-15)21-10-20-17(9-19(21)24)22(28)18(23(29)30)13-27(20)16-4-5-16;/h2-3,7,9-11,13,15-16H,4-6,8,12H2,1H3;1H
